US04873236
11-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
3.2 g (0.0117 mol) of 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 1.27 g (0.012 mol) of anhydrous sodium carbonate were heated to 60° C. for 4 hours in 100 ml of dry acetonitrile together with 3.0 g (0.014 mol) of 2-[2-[(diethylamino)-methyl]-piperidin-1-yl]ethanamine with stirring. The mixture was filtered while hot, the filtrate was cooled and the substance which crystallised out was suction filtered. 2.7 g (51% of theory) of colourless cyrstals were obtained, m.p. 175°-176° C.

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.0117 mol, 3.2 g | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | sodium carbonate | 0.012 mol, 1.27 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-[2-[(diethylamino)-methyl]-piperidin-1-yl]ethanamine | 0.014 mol, 3.0 g | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 11-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C)N(CC)CC1N(CCCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C25H34N6O2
